US07129239B2
Preparation of Intermediate 9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-ol (I-(4A-7)b)
To a suspension of 2-chloro-N-[4-chloro-6-(4-chlorophenylamino)-pyrimidin-5-yl]-benzamide I-(4A-7)a (1.00 g, 2.54 mmol) in isopropanol (20 ml) was added neat H2SO4 (410 μl, 7.4 mmol) at room temperature. The reaction was refluxed for 8 hours followed by cooling to room temperature and stirring for 16 hr. To the heterogeneous solution was added 20 ml of water to promote further product precipitation. After stirring for 1 an additional hour at room temperature, the solid was collected on a sintered glass funnel, rinsing with water followed by hexanes. The product was further dried under reduced pressure to give I-(4A-7)b as a colorless solid (0.72 g, 80%): 1H NMR: (400 MHz, DMSO-d6): δ 12.57 (s, 1H), 8.08 (d, J=4.1 Hz, 1 H), 7.66 (dd, J=7.4, 1.2 Hz, 1H), 7.51–7.41 (m, 5H), 7.33–7.29 (m, 2H).

reactant | 2-chloro-N-[4-chloro-6-(4-chlorophenylamino)-pyrimidin-5-yl]-benzamide | ClC1=C(C(=O)NC=2C(=NC=NC2NC2=CC=C(C=C2)Cl)Cl)C=CC=C1 | C17H11Cl3N4O
reactant | H2SO4 | 7.4 mmol, 410 μl | OS(=O)(=O)O | H2O4S
reactant | water | 20 ml | O | H2O
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-ol | 0.72 g, 80% | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=CC=C1)Cl)O | C17H10Cl2N4O
